US05495020
To 2,6-dichlorotoluene (200 g) is added dropwise fuming nitric acid (d=1.52, 206 ml) at 25° to 30° C. After stirring for 30 minutes at room temperature, the mixture is poured into ice-water, extracted with diethyl ether, and the extract is washed with an aqueous sodium hydrogen carbonate solution and then dried. The solvent is distilled off under reduced pressure to give 2,6-dichloro-3-nitrotoluene as yellow crystals (253.2 g).

reactant | 2,6-dichlorotoluene | 200 g | ClC1=C(C(=CC=C1)Cl)C | C7H6Cl2
reactant | nitric acid | 206 ml | [N+](=O)(O)[O-] | HNO3
product | 2,6-dichloro-3-nitrotoluene | 253.2 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)C | C7H5Cl2NO2
